US08633200B2
A solution of (S)-methyl 2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-(4-fluorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate (0.0475 g, 0.099 mmol) and 1M NaOH (0.986 ml, 0.986 mmol) in MeOH was heated at reflux for 3 h. Then, cooled, neutralized with 1M HCl (1 mL), concentrated and the residue was taken up in Et2O (25 mL), washed with water (5 mL), brine (5 mL), dried (MgSO4), filtered and concentrated to give (S)-2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-(4-fluorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid (0.0407 g, 0.086 mmol, 87% yield) as while solid. 1H NMR (500 MHz, 13) δ: 7.87-7.83 (m, 2H), 7.82-7.78 (m, 1H), 7.75-7.71 (m, 1H), 7.36-7.28 (m, 4H), 6.90 (s, 1H), 5.19 (s, 1H), 2.67 (s, 3H), 1.02 (s, 9H). LCMS (M+H) calcd for C25H24ClFN3O3: 468.15. found: 468.2.

reactant | (S)-methyl 2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-(4-fluorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.099 mmol, 0.0475 g | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=NC=2N(C1C1=CC=C(C=C1)F)N=C(C2)C2=CC(=CC=C2)Cl)C | C26H25ClFN3O3
reactant | NaOH | 0.986 mmol, 1M, 0.986 ml | [OH-].[Na+]
reactant | HCl | 1M, 1 mL | Cl | ClH
solvent | MeOH | CO | CH4O
product | (S)-2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-(4-fluorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid | 0.086 mmol, 0.0407 g, 87% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC=2N(C1C1=CC=C(C=C1)F)N=C(C2)C2=CC(=CC=C2)Cl)C | C25H23ClFN3O3
